US08614327B2
4-bromo-2-cyclopentyl-5-(4-oxo-1,4-dihydroquinoline-3-carboxamido)phenyl methyl carbonate (50 mg, 0.10 mmol), Pd(PPh3)2Cl2 (4 mg, 0.005 mmol), and cuprous iodide (1 mg, 0.10 μL, 0.003 mmol) were added to a microwave tube which was flushed with N2 and capped. A degassed solution of DMF (1 mL), triethylamine (2 mL), and prop-2-yn-1-ol (57.75 mg, 59.97 μL, 1.030 mmol) was added and the reaction mixture was heated at 80° C. for 16 h. The reaction mixture was filtered and purified by HPLC (20-99% CH3CN/0.05% TFA) to give 2-cyclopentyl-4-(3-hydroxyprop-1-ynyl)-5-(4-oxo-1,4-dihydroquinoline-3-carboxamido)phenyl methyl carbonate/N-(4-cyclopentyl-5-hydroxy-2-(3-hydroxyprop-1-ynyl)phenyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide. These product fractions were combined, concentrated to remove acetonitrile, and treated with 5N NaOH (2 mL). The pH of the solution was adjusted to 7 and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with 50% saturated sodium bicarbonate solution (2×20 mL) and brine. The solution was dried over anhydrous Na2SO4, filtered, and dried to obtain N-(4-cyclopentyl-5-hydroxy-2-(3-hydroxyprop-1-ynyl)phenyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide. LC/MS: m/z 403.2 (M+H)+ at 0.92 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 4-bromo-2-cyclopentyl-5-(4-oxo-1,4-dihydroquinoline-3-carboxamido)phenyl methyl carbonate | 0.10 mmol, 50 mg | C(OC1=C(C=C(C(=C1)NC(=O)C1=CNC2=CC=CC=C2C1=O)Br)C1CCCC1)(OC)=O | C23H21BrN2O5
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | prop-2-yn-1-ol | 1.030 mmol, 59.97 μL, 57.75 mg | C(C#C)O | C3H4O
catalyst | Pd(PPh3)2Cl2 | 0.005 mmol, 4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 2-cyclopentyl-4-(3-hydroxyprop-1-ynyl)-5-(4-oxo-1,4-dihydroquinoline-3-carboxamido)phenyl methyl carbonate N-(4-cyclopentyl-5-hydroxy-2-(3-hydroxyprop-1-ynyl)phenyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide | C(OC1=C(C=C(C(=C1)NC(=O)C1=CNC2=CC=CC=C2C1=O)C#CCO)C1CCCC1)(OC)=O.C1(CCCC1)C1=CC(=C(C=C1O)NC(=O)C1=CNC2=CC=CC=C2C1=O)C#CCO | InChI=1S/C26H24N2O6.C24H22N2O4/c1-33-26(32)34-23-14-22(17(9-6-12-29)13-19(23)16-7-2-3-8-16)28-25(31)20-15-27-21-11-5-4-10-18(21)24(20)30;27-11-5-8-16-12-18(15-6-1-2-7-15)22(28)13-21(16)26-24(30)19-14-25-20-10-4-3-9-17(20)23(19)29/h4-5,10-11,13-16,29H,2-3,7-8,12H2,1H3,(H,27,30)(H,28,31);3-4,9-10,12-15,27-28H,1-2,6-7,11H2,(H,25,29)(H,26,30)
